US04939137
The title compound was produced following the procedure of Example 1 using 12.0 g (26 mmol) of 3-[5-[4-(3-trifluoromethylphenyl)piperazin-1-yl]pentyl]thieno[3,4-d]pyrimidine-2,4-dione in DMF at 50° C. for 24 hours to produce methyl 3-[3-[5-[4-(3-trifluoromethylphenyl)piperazin-1-yl]pentyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate in 41% yield (5.78 g) after recrystallization from ether/hexane, mp 99.5°-101° C.

reactant | 3-[5-[4-(3-trifluoromethylphenyl)piperazin-1-yl]pentyl]thieno[3,4-d]pyrimidine-2,4-dione | 26 mmol, 12.0 g | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCCCN1C(NC=2C(C1=O)=CSC2)=O)(F)F | C22H25F3N4O2S
reactant | DMF | CN(C)C=O | C3H7NO
product | methyl 3-[3-[5-[4-(3-trifluoromethylphenyl)piperazin-1-yl]pentyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate | 41% yield | FC(C=1C=C(C=CC1)N1CCN(CC1)CCCCCN1C(N(C=2C(C1=O)=CSC2)CCC(=O)OC)=O)(F)F | C26H31F3N4O4S
